US06245796B1
A dimethyl sulfoxide (15 ml) solution containing 4.20 ml of triethylamine and 4.74 g of SO3-pyridine complex was added to a dimethyl sulfoxide (15 ml) solution containing 1.80 g of 2-(1H-furo[2,3-g]indazol-1-yl)ethanol, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction solution was poured into water, acidified with 1 N hydrochloric acid and then extracted with ethyl acetate. The organic layers were combined, washed with brine and then dried with anhydrous magnesium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under a reduced pressure, and the residue was purified by a silica gel column chromatography to give 0.89 g of (1H-furo[2,3-g]indazol-1-yl)acetaldehyde.

reactant | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 4.20 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
reactant | 2-(1H-furo[2,3-g]indazol-1-yl)ethanol | 1.80 g | N1(N=CC2=CC=C3C(=C12)C=CO3)CCO | C11H10N2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
product | (1H-furo[2,3-g]indazol-1-yl)acetaldehyde | 0.89 g | N1(N=CC2=CC=C3C(=C12)C=CO3)CC=O | C11H8N2O2
